US08058045B2
3-Methoxy-5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)-pyrazine-2-carbonitrile (Z-046)
TFA (0.1 mL) was added to a solution of tert-butyl 4-((6-(5-cyano-6-methoxypyrazin-2-ylamino)-pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (3 mg, 0.0068 mmol) in dichloromethane (3 mL) at room temperature. After 2 hr, the solution was evaporated to dryness and purified by ion exchange on SCX-II acidic resin (500 mg), eluting with methanol then 2M ammonia-methanol. The basic fractions were combined and the solvent was removed in vacuo to give the title compound as yellow oil (1.5 mg, 65%).

reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-((6-(5-cyano-6-methoxypyrazin-2-ylamino)-pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 0.0068 mmol, 3 mg | C(#N)C=1N=CC(=NC1OC)NC1=CC(=NC=N1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C21H28N8O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-Methoxy-5-(6-(piperidin-4-ylmethylamino)pyrimidin-4-ylamino)-pyrazine-2-carbonitrile | 1.5 mg, 65% | COC=1C(=NC=C(N1)NC1=NC=NC(=C1)NCC1CCNCC1)C#N | C16H20N8O
